US04205085
4-[15-(Trifluoromethyl)pentadecylamino]benzoic acid
A mixture of 6.0 g. of ethyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate, 4.0 g. of potassium hydroxide and 50 ml. of ethanol is stirred at 80° C. for 4 hours. The mixture is diluted with water and adjusted to pH 5.5 by the addition of concentrated hydrochloric acid. Cooling and filtration affords a solid which is recrystallized from acetone to yield the product as a white solid.

reactant | ethyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)(F)F | C25H40F3NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[15-(Trifluoromethyl)pentadecylamino]benzoic acid | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(F)F | C23H36F3NO2
